US07288537B2
A solution of 2-ethyl-2H-tetrazol-5-ylamine (0.1 g, 0.88 mmol) in dry THF (2 ml) is treated with pyridine (0.09 ml, 1.10 mmol) followed by a solution of phenylchloroformate (0.11 ml, 0.911 mmol) in THF (1 ml). The reaction mixture is stirred at ambient temperature for 1.5 hours, then partitioned between ethylacetate and water. The ethylacetate phase is dried over magnesium sulphate and evaporated to afford (2-Ethyl-2H-tetrazol-5-yl)-carbamic acid phenyl ester as a white solid. 1H NMR (CDCl3, 400 MHz) δ, 7.90 (1H, brs), 7.30 (2H, m), 7.15, (3H, m), 4.60 (2H, q) 1.60 (3H, t).

reactant | 2-ethyl-2H-tetrazol-5-ylamine | 0.88 mmol, 0.1 g | C(C)N1N=C(N=N1)N | C3H7N5
reactant | pyridine | 1.10 mmol, 0.09 ml | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 0.911 mmol, 0.11 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (2-Ethyl-2H-tetrazol-5-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1N=NN(N1)CC)=O | C10H11N5O2
